US05066409
Preparation of bis[4-(4-(3-trifluoromethylphenoxy) phenoxy)phenyl] sulfone
All apparatus is rigorously dried and flushed with nitrogen before use. The reaction is performed in a 100 mL 3-necked flask equipped with a mechanical stirrer, a reflux condenser topped with a nitrogen inlet tube, and a stopper. The flask is charged with methanol (20 mL) and sodium (0.735 g, 31.8 mmol). After all of the sodium has been consumed the methanol is distilled from the flask. The last traces of methanol are removed by azeotropic distillation with benzene. Pyridine (40 mL) and 4,4'-dihydroxydiphenyl sulfone (4 g, 15.9 mmol) are added, followed by 4-(3-trifluoromethylphenoxy)bromo-benzene (10.08 g, 31.8 mmol) and cuprous chloride (3.15 g, 31.8 mol), and the mixture is left to stir at reflux for 48 hours. The reaction mixture is analyzed by TLC, which shows three spots (Rf =0.00, 0.38, 0.95; CH2Cl2), with the upper spot being starting material and the middle spot being product. The mixture is cooled and filtered with the aid of ether (200 mL). The ethereal phase is washed successively with water (250 mL), 5% HCl (2×250 mL), saturated NaHCO3 (200 mL) and brine (200 mL), then is dried with MgSO4, and the solvents are removed on the rotary evaporator to leave 10.98 g of a yellow oil. Purification is accomplished by column chromatography on flash grade silica gel using a 1:1 mixture of hexane/CH2Cl2 as eluent. The product is obtained as a thick viscous oil (2.15 g, 18.7%).

reactant | methanol | 20 mL | CO | CH4O
reactant | sodium | 31.8 mmol, 0.735 g | [Na] | Na
reactant | 4,4'-dihydroxydiphenyl sulfone | 15.9 mmol, 4 g | C1=CC(=CC=C1O)S(=O)(=O)C2=CC=C(C=C2)O | C12H10O4S
reactant | 4-(3-trifluoromethylphenoxy)bromo-benzene | 31.8 mmol, 10.08 g | FC(C=1C=C(OC2=CC=C(C=C2)Br)C=CC1)(F)F | C13H8BrF3O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | bis[4-(4-(3-trifluoromethylphenoxy) phenoxy)phenyl] sulfone | 10.98 g | FC(C=1C=C(OC2=CC=C(OC3=CC=C(C=C3)S(=O)(=O)C3=CC=C(C=C3)OC3=CC=C(C=C3)OC3=CC(=CC=C3)C(F)(F)F)C=C2)C=CC1)(F)F | C38H24F6O6S
